US07018988B2
Intermediate 3: 1-tert-butyl 2-methyl (2S,4EZ)-4-(chloromethylene)-1,2-pyrrolidinedicarboxylate
Chloromethyltriphenylphosphonium iodide (270 mg, 0.62 mmol) was added to a solution of potassium tert-butoxide (67 mg, 0.59 mmol) in anhydrous diethyl ether (5 ml) under nitrogen and the resulting bright yellow mixture stirred for 30 minutes at ambient temperature. The reaction was then cooled to 0° C. and a solution of 1-tert-butyl 2-methyl (2S)-4-oxo-1,2-pyrrolidinedicarboxylate (100 mg, 0.41 mmol in 2 ml anhydrous diethyl ether) was added dropwise. The reaction was then warmed to room temperature and stirred for 30 minutes before adding saturated aqueous ammonium chloride solution (0.5 ml). The organic layer was removed in vacuo, and the aqueous washed with diethyl ether (3×5 ml). The combined organic layers were dried with brine and magnesium sulfate before filtering and removal of solvent. The desired product was isolated by silica gel chromatography, eluting with 15% ethyl acetate in hexanes to give 105 mg (93% yield) as a off-white wax.

reactant | Chloromethyltriphenylphosphonium iodide | 0.62 mmol, 270 mg | [I-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 0.59 mmol, 67 mg | CC(C)([O-])C.[K+]
reactant | 1-tert-butyl 2-methyl (2S)-4-oxo-1,2-pyrrolidinedicarboxylate | 0.41 mmol, 2 ml, 100 mg | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | ammonium chloride | 0.5 ml | [Cl-].[NH4+]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1-tert-butyl 2-methyl (2S,4EZ)-4-(chloromethylene)-1,2-pyrrolidinedicarboxylate | 93% yield | ClC=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H18ClNO4
